US04571396
4-[6-(Acetylcyclopropylamino)-3-nitro-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester
A solution of 64.0 g (0.19 mole) of 4-[6-(cyclopropylamino)-3-nitro-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester, 115 ml of acetic anhydride and 115 ml of acetic acid was heated on a steam bath for 36 hours. The solvents were removed in vacuo, the residue was triturated with a mixture of ethanol and toluene which was also evaporated in vacuo to give 68.3 g of the title compound, mp 90°-93° C.

reactant | 4-[6-(cyclopropylamino)-3-nitro-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester | 0.19 mole, 64.0 g | C1(CC1)NC1=CC=C(C(=N1)N1CCN(CC1)C(=O)OCC)[N+](=O)[O-] | C15H21N5O4
reactant | acetic anhydride | 115 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 115 ml | C(C)(=O)O | C2H4O2
product | 4-[6-(Acetylcyclopropylamino)-3-nitro-2-pyridinyl]-1-piperazinecarboxylic acid, ethyl ester | 68.3 g | C(C)(=O)N(C1=CC=C(C(=N1)N1CCN(CC1)C(=O)OCC)[N+](=O)[O-])C1CC1 | C17H23N5O5
